US04528282
A-mixture of N-(dimethoxycarbonylmethyl)-L-alanyl-L-proline t-butyl ester (2.0 g.), 3-dimethylamino-1-(2-thienyl)propan-1-one hydrochloride (1.8 g.), potassium carbonate (2.0 g.) and methanol (15 ml.) was stirred at laboratory temperature for 16 hours and then evaporated to dryness under reduced pressure. The residue was stirred with dichloromethane, the mixture was filtered through a filter-aid and the filtrate was evaporated to dryness under reduced pressure. The residue was purified by chromatography on a silica gel column using a 19:1 v/v mixture of dichloromethane and ethyl acetate as eluant. There was thus obtained as an oil N-[1,1-dimethoxycarbonyl-4-oxo-4-(2-thienyl)butyl]-L-alanyl-L-proline t-butyl ester.

reactant | N-(dimethoxycarbonylmethyl)-L-alanyl-L-proline t-butyl ester | 2.0 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(C(=O)OC)C(=O)OC)C)=O)=O | C17H28N2O7
reactant | 3-dimethylamino-1-(2-thienyl)propan-1-one hydrochloride | 1.8 g | Cl.CN(CCC(=O)C=1SC=CC1)C
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | N-[1,1-dimethoxycarbonyl-4-oxo-4-(2-thienyl)butyl]-L-alanyl-L-proline t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(CCC(C=1SC=CC1)=O)(C(=O)OC)C(=O)OC)C)=O)=O | C24H34N2O8S
